US06436959B1
A solution of 1.24 g (2.93 mmol) of N,N-diethyl-4-[3-methoxyphenyl(1-propylpiperidin-4-yl)amino]benzamide, Cl, in 5 mL of CH2Cl2 was cooled to −60° C. under Ar and a solution of 17.58 mL (17.58 mmol) of 1.0 M BBr3 in CH2Cl2 was added dropwise. The temperature was allowed to rise to 25° C. and the mixture was stirred for 18 h. It was partitioned between NaHCO3 solution and 25% EtOH in CH2Cl2. The organic layer was dried (Na2SO4) and the solvent evaporated. The residue was was heated under reflux in 100 mL of saturated NaHCO3 solution. The solution was cooled and extracted with CH2Cl2. The solution was dried (Na2SO4) and concentrated to give 1.1 g (92% yield) of N,N-diethyl-4-[3-hydroxyphenyl(1-propylpiperidin-4-yl)amino]benzamide as a gum. An oxalate salt was prepared in CH3CN, mp 196-197° C. MS m/z=410 (M++H). 300 MHz 1H NMR (DMSO-d6) δ7.2(m, 3H); 6.6 (m, 3H); 6.5(d, 1H); 6.4(s, 1H); 4.1(m, 1H); 3.3(q, 4H); 3.2 (m, 2H); 2.6 (m, 4H); 2.1 (d, 2H); 1.5 (m, 4H); 1.1 (t, 6H); 0.8 (t, 3H). Anal calcd. for C25H35N3O2.0.5 C2H2O4.0.25 H2O: C, 68.03; H, 8.01; N, 915; H2O, 0.98. Found: C, 67.73; H, 7.73; N, 9.11; H2O, 0.46.

reactant | N,N-diethyl-4-[3-methoxyphenyl(1-propylpiperidin-4-yl)amino]benzamide | 2.93 mmol, 1.24 g | C(C)N(C(C1=CC=C(C=C1)N(C1CCN(CC1)CCC)C1=CC(=CC=C1)OC)=O)CC | C26H37N3O2
reactant | BBr3 | 17.58 mmol, 1.0 M, 17.58 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N,N-diethyl-4-[3-hydroxyphenyl(1-propylpiperidin-4-yl)amino]benzamide | 1.1 g, 92% yield | C(C)N(C(C1=CC=C(C=C1)N(C1CCN(CC1)CCC)C1=CC(=CC=C1)O)=O)CC | C25H35N3O2
